US06294532B1
7-Azaoxindole hydrobromide (269 mg, 1.25 mmol), (Tet.Let. 1987, 28, 4027), was added to a suspension of sodium hydride (100 mg, 2.5 mmol, prewashed with hexane) in a mixture of THF (3 ml) and DMF (3 ml). After stirring for 40 minutes at ambient temperature, 4-chloro-7-methoxy-6-(3-morpholinopropoxy)quinazoline (169 mg, 0.5 mmol) was added. After heating for 1 hour at 75° C., the volatiles were removed by evaporation. The residue was partitioned between ethyl acetate and water. The aqueous layer was separated and adjusted to pH8 with 2M hydrochloric acid. After extraction with methylene chloride, the organic layer was dried (MgSO4), filtered and the volatiles removed by evaporation. The residue was dissolved in methylene chloride/methanol and 3M hydrogen chloride in ether (0.5 ml) was added. After dilution with ether, the solid was collected by filtration and dried under vacuum to give 4-(7-azaoxindol-3-yl)-7-methoxy-6-(3-morpholinopropoxy)quinazoline (150 mg, 59%).

reactant | 7-Azaoxindole hydrobromide | 1.25 mmol, 269 mg | Br.N1C(CC2=CC=CN=C12)=O
reactant | sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | 4-chloro-7-methoxy-6-(3-morpholinopropoxy)quinazoline | 0.5 mmol, 169 mg | ClC1=NC=NC2=CC(=C(C=C12)OCCCN1CCOCC1)OC | C16H20ClN3O3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(7-azaoxindol-3-yl)-7-methoxy-6-(3-morpholinopropoxy)quinazoline | 150 mg, 59% | N1C(C(C2=CC=CN=C12)C1=NC=NC2=CC(=C(C=C12)OCCCN1CCOCC1)OC)=O | C23H25N5O4
